*****************************************************************
* NXP BUK9K32-100E
*
* Polarity N-Channel
* Ratings 100V/3.300000E-002OHMS/26.416672804141A
*
* Date Created Tue Jul 02 23:44:06 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9K32-100E DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.4e-10
RLS2 SOURCE 8 1.10584061406361
RLS1 8 7 0.00045

RDS 7 4 5000000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0244518633988687 TC=0.00960795061650349,2.84423452637632E-05
RBD 9 4 0.00243401132818302 TC=0.00960795061650349,2.84423452637632E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 5000000000
CGS 2 6 1.915e-09
RG 1 2 1.68132

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	2839.4
+ -10	2835.98
+ -8	2830.95
+ -6	2822.58
+ -5	2815.45
+ -4	2803.62
+ -3	2773.62
+ -2	2695.15
+ -1	1967.96
+ -0.5	1538.72
+ -0.2	1214.87
+ -0.1	1204.77
+ 0	875.35526
+ 0.1	579.70112
+ 0.2	579.17964
+ 0.5	450.78716
+ 1	375.2184
+ 2	280.00792
+ 3	237.91948
+ 4	212.57212
+ 5	194.22304
+ 6	180.46304
+ 8	161.04952
+ 10	147.50384
+ 12	137.13796
+ 15	125.29252
+ 16	121.8554
+ 20	111.26428
+ 25	101.30391
+ 30	93.71352
+ 50	75.04365



.MODEL MINT NMOS(Vto=2.08431699434338 Kp=2.116519e+002 Nfs=370000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=5.22378057536843e-12
+ N=1 M=0.6 VJ=0.58 Fc=0.5 Cjo=4.6549828e-10 Tt=2.4856e-08)

.ENDS

